US06288096B1
2 g (6.7 mmole) methyl N-{4-[2-(4-formylphenoxy)ethyl]phenyl}carbamate, 1.57 g (13.4 mmole) 2,4-thiazolidinedione, piperidine, acetic acid and toluene were refluxed with water separation in a Dean-Stark apparatus for 3 hours. The formed yellow precipitate was collected by filtration giving 1.9 g (yield 71.2%) of 5-(4-[2-(4-methoxycarbonylaminophenyl)ethoxy]benzylidene)thiazolidine-2,4-dione.

reactant | methyl N-{4-[2-(4-formylphenoxy)ethyl]phenyl}carbamate | 6.7 mmole, 2 g | C(=O)C1=CC=C(OCCC2=CC=C(C=C2)NC(OC)=O)C=C1 | C17H17NO4
reactant | 2,4-thiazolidinedione | 13.4 mmole, 1.57 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(4-[2-(4-methoxycarbonylaminophenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 1.9 g, yield 71.2% | COC(=O)NC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C20H18N2O5S
